US05051423
1-[2-Hydroxy-3-(1-naphthalenyloxy)propyl]-4-[4-[(methylsulfonyl)amino]benzoyl]piperazine
Add 7.89 g (42.4 mmol) of 1,2-epoxy-3-(1-naphthalenyloxy)propane to a solution of 12.0 9 (42.4 mmol) of 1-[4-[(methylsulfonyl)amino]benzoyl]piperazine in methanol. Heat the resultant solution at reflux for about 46 h. Cool the solution to room temperature and evaporate the solvent. Triturate the residue with ether toobtain crystals of the title compound.

reactant | 1,2-epoxy-3-(1-naphthalenyloxy)propane | 42.4 mmol, 7.89 g | O1CC1COC1=CC=CC2=CC=CC=C12 | C13H12O2
reactant | 1-[4-[(methylsulfonyl)amino]benzoyl]piperazine | CS(=O)(=O)NC1=CC=C(C(=O)N2CCNCC2)C=C1 | C12H17N3O3S
solvent | methanol | CO | CH4O
product | 1-[2-Hydroxy-3-(1-naphthalenyloxy)propyl]-4-[4-[(methylsulfonyl)amino]benzoyl]piperazine | OC(CN1CCN(CC1)C(C1=CC=C(C=C1)NS(=O)(=O)C)=O)COC1=CC=CC2=CC=CC=C12 | C25H29N3O5S
